US09340544B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-phenyl-amine (300 mg, 0.88 mmol), 2-bromoethylmethylether (0.12 mL, 1.32 mmol), potassium carbonate (121 mg, 0.88 mmol) and acetonitrile were mixed and heated in a microwave oven at 120° C. for 40 min. Water was added resulting in a white precipitate. The crude product was purified by preparative LCMS to give [2-(3,5-dimethyl-pyrazol-1-yl)-9-(2-methoxy-ethyl)-9H-purin-6-yl]-phenyl-amine (27 mg, 9%) as a white crystalline compound.

reactant | [2-(3,5-Dimethyl-pyrazol-1-yl)-9H-purin-6-yl]-phenyl-amine | 0.88 mmol, 300 mg | CC1=NN(C(=C1)C)C1=NC(=C2N=CNC2=N1)NC1=CC=CC=C1 | C16H15N7
reactant | 2-bromoethylmethylether | 1.32 mmol, 0.12 mL | BrCCOC | C3H7BrO
reactant | potassium carbonate | 0.88 mmol, 121 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | Water | O | H2O
product | [2-(3,5-dimethyl-pyrazol-1-yl)-9-(2-methoxy-ethyl)-9H-purin-6-yl]-phenyl-amine | 27 mg, 9% | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)CCOC)NC1=CC=CC=C1 | C19H21N7O
